US05268389
1-Methylethyl 2-chloro-5-[(2-methoxybenzoyl) amino]benzoate (Compound 19)
2-Methoxybenzoyl chloride (8.8 g, 0.05 mole) was added at room temperature under a dry nitrogen atmosphere to a stirred mixture of 1-methylethyl 5-amino-2-chlorobenzoate (10.7 g, 0.05 mole), triethylamine (5.6 g, 0.055 mole) and 4-(N,N,-dimethylamino)pyridine (catalyst, 0.2 g) dissolved in dry p-dioxane (100 ml . A solid Precipitate formed. Following the initial exothermic reaction (temperature increased to about 45° C.), the reaction mixture was stirred under nitrogen at room temperature for 20 hours. Next, the reaction mixture was added to water (500 ml), resulting in the precipitation of a solid product, which was collected by vacuum filtration, washed with water (500 ml), and dried to yield 16.2 g of the title compound, m.p. 94°-96° C. NMR: (CDCl3) : 1.40 (6H,d) 4.05 (3H,s)5.28 (1H,m), 7.02 (1H,d), 7.11 (1H,m), 7.38 (1H,d), 7.49 (1H,m), 7.87 (1H,m), 7.95 (1H,d), 8.25 (1H,m), 9.86 (1H,s)

reactant | 2-Methoxybenzoyl chloride | 0.05 mole, 8.8 g | COC1=C(C(=O)Cl)C=CC=C1 | C8H7ClO2
reactant | 1-methylethyl 5-amino-2-chlorobenzoate | 0.05 mole, 10.7 g | NC=1C=CC(=C(C(=O)OC(C)C)C1)Cl | C10H12ClNO2
reactant | triethylamine | 0.055 mole, 5.6 g | C(C)N(CC)CC | C6H15N
reactant | water | 500 ml | O | H2O
catalyst | 4-(N,N,-dimethylamino)pyridine | 0.2 g | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | p-dioxane | O1CCOCC1 | C4H8O2
product | 1-Methylethyl 2-chloro-5-[(2-methoxybenzoyl) amino]benzoate | 16.2 g | ClC1=C(C(=O)OC(C)C)C=C(C=C1)NC(C1=C(C=CC=C1)OC)=O | C18H18ClNO4
